US05665718
11.7 g (31.2 mmol) of crude (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, 100 ml of methylene chloride, 6.04 g (50 mmol) of allyl bromide and 7.75 g (60 mmol) of N-ethyldiisopropylamine were stirred at room temperature overnight. The solution was concentrated and the residue was purified by chromatography on 500 g of silica gel while eluting with ethyl acetate. After recrystallization from methanol there were obtained 5.3 g (47%) of (S)-1-(3-diallylaminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 139°-140°, which was converted into the hydrochloride of m.p. 127°.

reactant | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 31.2 mmol, 11.7 g | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3Cl)F)=O)CC1 | C16H12ClFN6O2
reactant | allyl bromide | 50 mmol, 6.04 g | C(C=C)Br | C3H5Br
reactant | N-ethyldiisopropylamine | 60 mmol, 7.75 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (S)-1-(3-diallylaminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 5.3 g, 47% | C(C=C)N(CC=C)CC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3Cl)F)=O)CC1 | C22H20ClFN6O2
